US08084644B2
Cyclohexylmethyl N-(4-chlorophenyl)-3-(trimethylsilyl)thiopropynimidate (0.34 g) was dissolved to methanol (5 mL), a small amount of potassium carbonate was added thereto under ice-cooling and stirred for 30 minutes. The reaction solution was poured into aqueous solution of sodium chloride, and extracted with ethyl acetate. The organic layer was washed with water, dried. The solvent was distilled off to obtain cyclohexylmethyl N-(4-chlorophenyl)thiopropynimidate (0.27 g).

reactant | Cyclohexylmethyl N-(4-chlorophenyl)-3-(trimethylsilyl)thiopropynimidate | 0.34 g | ClC1=CC=C(C=C1)N=C(C#C[Si](C)(C)C)SCC1CCCCC1 | C19H26ClNSSi
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | cyclohexylmethyl N-(4-chlorophenyl)thiopropynimidate | 0.27 g | ClC1=CC=C(C=C1)N=C(C#C)SCC1CCCCC1 | C16H18ClNS
